US04061656
19.7 G. of 2,4-diethyl-5-methyl-3-chloromethylthiophene and 39.5 g. of triphenylphosphine were dissolved in 400 ml. of toluene. The resulting solution was heated at 115° C. overnight under argon and then cooled to room temperature. The white phosphonium salt which precipitated was collected by filtration, washed with toluene and dried at 100° C. under high vacuum to yield (2,4-diethyl-5-methyl-3-thenyl)triphenylphosphonium chloride, m.p. 192°-194° C.

reactant | 2,4-diethyl-5-methyl-3-chloromethylthiophene | C(C)C=1SC(=C(C1CCl)CC)C | C10H15ClS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2,4-diethyl-5-methyl-3-thenyl)triphenylphosphonium chloride | [Cl-].C(C)C1=C(C(=C(S1)C)CC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H30PS.ClH/c1-4-26-22(3)30-28(5-2)27(26)21-29(23-15-9-6-10-16-23,24-17-11-7-12-18-24)25-19-13-8-14-20-25;/h6-20H,4-5,21H2,1-3H3;1H/q+1;/p-1
